data/oMe_Silver.jsonl
{"reaction_id": "NR-144_1-C#N_2-Br_3-F_4-C1CCCCC1_5-N(C)C","name": "Michael Addition","level": "medium","reactants_smiles": ["C(C#N)(Br)=C(F)C(=O)N(C)C","S([H])C1CCCCC1"],"products_smiles": ["S(C1CCCCC1)C(C#N)(Br)C(F)C(=O)N(C)C"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[S-]C1CCCCC1","rationale": "Base abstracts the acidic proton from the thiol due to sulfur’s relatively low pKa, generating a thiolate anion with high nucleophilicity."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "S(C1CCCCC1)C(C#N)(Br)C(F)=C([O-])N(C)C","rationale": "The thiolate attacks the β-carbon of the α,β-unsaturated carbonyl via conjugate addition, favored by resonance stabilization of the resulting enolate."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "S(C1CCCCC1)C(C#N)(Br)C(F)C(=O)N(C)C","rationale": "The enolate intermediate is protonated to form the neutral thioether, driven by the thermodynamic stability of the carbonyl group."}],"description": "Under basic conditions, the thiol is deprotonated to form a strong nucleophile, which undergoes conjugate (Michael) addition to the α,β-unsaturated carbonyl. The resulting enolate intermediate is then protonated to yield the stable thioether product."}
{"reaction_id": "NR-141_1-c1occc1_2-c1ccc(N(C)C)cc1","name": "Meerwein-Ponndorf-Verley Reduction","level": "medium","reactants_smiles": ["C(=O)(c1occc1)(c1ccc(N(C)C)cc1)"],"products_smiles": ["C(O)(c1occc1)(c1ccc(N(C)C)cc1)"],"conditions": "Al(Oi-Pr)3, i-PrOH","mechanism": [{"step": 1,"type": "coordination","subtype": "lewis_acid_base_coordination","intermediate_smiles": "C(=[O+][Al-](OC(C)C)(OC(C)C)OC(C)C)(c1occc1)(c1ccc(N(C)C)cc1)","rationale": "Aluminum acts as a strong Lewis acid, coordinating to the carbonyl oxygen and increasing the partial positive charge on the carbonyl carbon, making it more susceptible to nucleophilic hydride transfer."},{"step": 2,"type": "pericyclic","subtype": "group_transfer","intermediate_smiles": "C(O[Al](OC(C)C)OC(C)C)(c1occc1)(c1ccc(N(C)C)cc1)","rationale": "A six-membered cyclic transition state allows concerted hydride transfer from the α-carbon of isopropoxide to the activated carbonyl carbon, favored by chelation and minimal ring strain."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(O)(c1occc1)(c1ccc(N(C)C)cc1)","rationale": "Proton transfer from the coordinated alkoxide to the oxygen regenerates the aluminum isopropoxide catalyst and releases the neutral alcohol product."}],"description": "The carbonyl coordinates to aluminum isopropoxide, increasing electrophilicity. A six-membered cyclic transition state enables hydride transfer from isopropoxide to the carbonyl carbon, reducing it to an alcohol. Proton transfer regenerates the catalyst and releases the product."}
